US07709500B2
(2R)-1-Amino-2-methyl-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol
To a solution of 2-[(2S)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxy-2-methylpropyl]-1H-isoindole-1,3(2H)-dione (278 mg, 0.6 mmoles) in ethanol (5 ml) was added aqueous methylamine (40% wt. solution in water, 6 ml). The mixture was stirred at room temperature for 24 h and then concentrated in vacuo to leave a crude yellow glass. This glass was dissolved in methanol (2 ml), added to an Isolute Flash SCX cartridge (2 g), washed with methanol (25 ml) and 7N ammonia in methanol (25 ml). The methanolic ammonia was concentrated in vacuo to give the title compound as a yellow glass (165 mg).

reactant | 2-[(2S)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxy-2-methylpropyl]-1H-isoindole-1,3(2H)-dione | 0.6 mmoles, 278 mg | ClC=1C=C(OC2CCN(CC2)C[C@](CN2C(C3=CC=CC=C3C2=O)=O)(C)O)C=CC1Cl | C23H24Cl2N2O4
reactant | methylamine | 6 ml | CN | CH5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | methanol | 2 ml | CO | CH4O
product | (2R)-1-Amino-2-methyl-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 165 mg | NC[C@](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)(O)C | C15H22Cl2N2O2
